US04735957
Potassium tert-butoxide (1.46 g) was added to a solution of 2-methylamino-5-(4-pyridyl)-4-thiazolecarbaldehyde (1.9 g) and methyltriphenylphosphonium bromide (4.66 g) in dimethyl sulfoxide (87 ml) and the mixture was stirred for 5 hours at ambient temperature. The reaction mixture was poured into ice-water (300 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with a saturated aqueous solution of sodium chloride (100 ml) and dried over magnesium sulfate. Solvent was distilled off and the residue was subjected to column chromatography on silica gel (120 g) and eluted with a mixture of chloroform and methanol (40:1). The fractions containing the object compound were combined and concentrated until the volume was about 15 ml. The resultant white needles were collected by filtration and washed with cold ethyl acetate and dried under reduced pressure to give white needles of 2-methylamino-5-(4-pyridyl)-4-vinylthiazole (510 mg).

reactant | Potassium tert-butoxide | 1.46 g | CC(C)([O-])C.[K+]
reactant | 2-methylamino-5-(4-pyridyl)-4-thiazolecarbaldehyde | 1.9 g | CNC=1SC(=C(N1)C=O)C1=CC=NC=C1 | C10H9N3OS
catalyst | methyltriphenylphosphonium bromide | 4.66 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethyl sulfoxide | 87 ml | CS(=O)C | C2H6OS
product | 2-methylamino-5-(4-pyridyl)-4-vinylthiazole | 510 mg | CNC=1SC(=C(N1)C=C)C1=CC=NC=C1 | C11H11N3S
